US04650810
(i) 4-Hydrazinophenylacetonitrile
A solution of sodium nitrite (1.9 g) in water (16 ml) was added dropwise to a suspension of 4-aminophenylacetonitrile (3.6 g) in concentrated hydrochloric acid (37 ml) so that the temperature did not exceed +2° C. The resulting mixture was stirred overnight (room temperature), the yellow solid collected, washed with cold ethanol (20 ml) and ether (50 ml), dried (vacuum) to give the title compound as a yellow solid.

reactant | sodium nitrite | 1.9 g | N(=O)[O-].[Na+]
reactant | 4-aminophenylacetonitrile | 3.6 g | NC1=CC=C(C=C1)CC#N | C8H8N2
solvent | water | 16 ml | O | H2O
solvent | hydrochloric acid | 37 ml | Cl | ClH
product | 4-Hydrazinophenylacetonitrile | N(N)C1=CC=C(C=C1)CC#N | C8H9N3
